US08735390B2
((2-(6-Chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methyl)-cis-2,6-dimethylmorpholine (1.00 wt, 460 g), N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide (0.741 wt, 1.1 eq, 341 g) and potassium phosphate (0.523 wt, 1.2 eq, 241 g) are combined in IPA (5 vol, 2.3 L) and water (5 vol, 2.3 L) in a clean CLR under nitrogen. Potassium hydrogen difluoride (0.353 wt, 2.2 eq, 163 g) is added and the mixture is heated to 75-80° C. and degassed at this temperature for at least 1 hr. In a separate vessel IPA (5 vol, 2.3 L) is degassed by being heated to reflux, then stirred for a further 20 min at this temperature under a flow of N2 before being cooled to 20-25° C. under a nitrogen atmosphere. To the degassed IPA (5 vol, 2.3 L) is charged palladium (II) acetate (0.00922 wt, 0.02 eq, 4.25 g), followed by tricyclohexylphosphine (0.0230 wt, 0.04 eq, 10.6 g) and the mixture stirred at 20-25° C. for at least 0.5 hr. The resultant yellow solution is added to the reaction mixture and stirred at 75-80° C. for at least 2 hr, then monitored for completion by HPLC. The mixture is cooled to 30° C. over 1 hr and water (5 vol, 2.3 L) is added. The slurry is allowed to cool to 20° C., then aged at this temperature for at least 0.5 hr, filtered, washed with IPA:water (1:1 v/v, 2×2 vol, 2×920 ml) and sucked dry. The solid is dried in vacuo at 60° C. to constant probe temperature to afford N-(5-(4-(5-((cis-2,6-dimethylmorpholino)methyl)oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl)-2-methoxypyridin-3-yl)methanesulfonamide as an off-white solid.

reactant | ((2-(6-Chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methyl)-cis-2,6-dimethylmorpholine | 460 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1C[C@H](O[C@H](C1)C)C | C23H23ClN4O4S
reactant | N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)methanesulfonamide | 341 g, 1.1 eq | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate | 241 g, 1.2 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Potassium hydrogen difluoride | 163 g, 2.2 eq | F.[F-].[K+]
reactant | tricyclohexylphosphine | 10.6 g, 0.04 eq | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | IPA | 2.3 L | CC(C)O | C3H8O
catalyst | palladium (II) acetate | 4.25 g, 0.02 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | IPA | 2.3 L | CC(C)O | C3H8O
solvent | water | 2.3 L | O | H2O
solvent | water | 2.3 L | O | H2O
product | N-(5-(4-(5-((cis-2,6-dimethylmorpholino)methyl)oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl)-2-methoxypyridin-3-yl)methanesulfonamide | C[C@@H]1O[C@@H](CN(C1)CC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1)C | C30H32N6O7S2
